US07524823B2
B] Preparation of 6-Amino-9-(2-hydroxyethyl)-8-[(3-pyridinylmethyl)amino]-9H-purine
A mixture of 0.387 g (1.5 mmol) 6-amino-8-bromo-9-(2-hydroxyethyl)-9H-purine and 0.456 3-picolylamine (4.2 mmol) was heated to 150° C. under an argon atmosphere. After completion of the reaction (˜5 hours) the reaction mixture was diluted with water leading to the precipitation of the product. The precipitate was isolated, washed with water and diethylether to give 0.372 g (87%) of the desired product.

reactant | 6-amino-8-bromo-9-(2-hydroxyethyl)-9H-purine | 1.5 mmol, 0.387 g | NC1=C2N=C(N(C2=NC=N1)CCO)Br | C7H8BrN5O
reactant | 3-picolylamine | 4.2 mmol | N1=CC(=CC=C1)CN | C6H8N2
solvent | water | O | H2O
product | 6-Amino-9-(2-hydroxyethyl)-8-[(3-pyridinylmethyl)amino]-9H-purine | 0.372 g, 87% | NC1=C2N=C(N(C2=NC=N1)CCO)NCC=1C=NC=CC1 | C13H15N7O
